US05985849
5-(9-Hydroxyxanthen-9-yl)-2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine was prepared from 2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine according to the method of Example 1 step (i) (using xanthone instead of benzophenone) as a pale yellow solid.

reactant | 2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine | CC(C)(C)[Si](O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C)N1C(=O)NC(=O)C=C1)(C)C | C27H54N2O6Si3
reactant | xanthone | C1=CC=CC=2OC3=CC=CC=C3C(C12)=O | C13H8O2
product | 5-(9-Hydroxyxanthen-9-yl)-2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine | OC1(C2=CC=CC=C2OC=2C=CC=CC12)C=1C(NC(N([C@H]2[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H](CO[Si](C)(C)C(C)(C)C)O2)C1)=O)=O | C40H62N2O8Si3
